US05244890
To a suspension of 7β-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-[1-methyl-4-(3,4-dihydroxybenzoyl)-1-piperazinio]methyl-3-cephem-4-carboxylate (syn isomer) (1.52 g) in methanol (9 ml) was added concentrated hydrochloric acid (1.92 ml). After being stirred at room temperature for 4 hours, the solution was poured into ice water (40 ml) and adjusted to pH 2 with a saturated aqueous solution of sodium bicarbonate. The mixture was concentrated in vacuo to remove methanol. The concentrate was adjusted to pH 2 with a saturated aqueous solution of sodium bicarbonate and subjected to column chromatography on "Diaion HP-20" (40 ml), and the elution was carried out with 40% aqueous isopropyl alcohol. The eluate was concentrated in vacuo and lyophilized to give 7β-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[1-methyl-4-(3,4-dihydroxybenzoyl)-1-piperazinio]methyl-3-cephem-4-carboxylate (syn isomer) (548 mg).

reactant | 7β-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-[1-methyl-4-(3,4-dihydroxybenzoyl)-1-piperazinio]methyl-3-cephem-4-carboxylate | 1.52 g | C(=O)NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]2(CCN(CC2)C(C2=CC(=C(C=C2)O)O)=O)C)C(=O)[O-])C1=O)=NOC | C27H29N7O9S2
reactant | hydrochloric acid | 1.92 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 9 ml | CO | CH4O
product | 7β-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[1-methyl-4-(3,4-dihydroxybenzoyl)-1-piperazinio]methyl-3-cephem-4-carboxylate | 548 mg | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]2(CCN(CC2)C(C2=CC(=C(C=C2)O)O)=O)C)C(=O)[O-])C1=O)=NOC | C26H29N7O8S2
